US07407983B2
3-(16-benzyloxyhexadecenyl)-1-(4-methoxybenzen-sulfonyl)indole (530 mg, 0.86 mmol) was dissolved in 25 mL of ethanol and added to palladium supported on activated charcoal (5%, 50 mg). The resulting mixture was allowed to stand at room temperature for 3 hours under 1 atmospheric pressure of hydrogen. After filtration, the reaction mixture was extracted with ethyl ether. The organic layer was concentrated under reduced pressure. The residue was purified by flash chromatography to give 3-(16-hydroxyhexadecyl)-1-(4-methoxybenzenesulfonyl)indole as a white solid (417 mg, 92%).

reactant | 3-(16-benzyloxyhexadecenyl)-1-(4-methoxybenzen-sulfonyl)indole | 0.86 mmol, 530 mg | C(C1=CC=CC=C1)OCCCCCCCCCCCCCCC=CC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)OC | C38H49NO4S
reactant | charcoal | 50 mg | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 3-(16-hydroxyhexadecyl)-1-(4-methoxybenzenesulfonyl)indole | 417 mg, 92% | OCCCCCCCCCCCCCCCCC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)OC | C31H45NO4S
